US05162571
To a solution of 4,7-dimethyl-6-methoxy-1-indanol (4.0 g) in acetic acid (100 ml) was added palladium black (600 mg) and hydrogenation was carried out at room temperature for 3 hours. The catalyst was filtered off and the mother liquor was distilled under reduced pressure. To the residue was added ethyl acetate, washed with water and saturated saline and dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain 4,7-dimethyl-5-methoxyindane (3.5 g) (Compound A-9). The physical properties and NMR spectrum data thereof are shown in Table 1.

reactant | 4,7-dimethyl-6-methoxy-1-indanol | 4.0 g | CC1=C2CCC(C2=C(C(=C1)OC)C)O | C12H16O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 600 mg | [Pd] | Pd
product | 4,7-dimethyl-5-methoxyindane | 3.5 g | CC1=C2CCCC2=C(C=C1OC)C | C12H16O
